US06610688B2
4-Chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (80 mg, 0.47 mmol) was condensed with 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide (124 mg, 0.47 mmol) at room temperature to give 50 mg (26%) of 5-(4-chloro-6-oxo-6,7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-4-methyl-1H-pyrrole-2-carboxylic acid (2-morpholin4-yl-ethyl)-amide as a yellow solid.

reactant | 4-Chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.47 mmol, 80 mg | ClC=1C2=C(N=CN1)NC(C2)=O | C6H4ClN3O
reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | 0.47 mmol, 124 mg | N1(CCOCC1)CCNC(=O)C=1NC(=C(C1)C)C=O | C13H19N3O3
product | 5-(4-chloro-6-oxo-6,7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-4-methyl-1H-pyrrole-2-carboxylic acid (2-morpholin4-yl-ethyl)-amide | 50 mg, 26% | N1(CCOCC1)CCNC(=O)C=1NC(=C(C1)C)C=C1C(NC=2N=CN=C(C21)Cl)=O | C19H21ClN6O3
